US07723330B2
Step H: Preparation of 5-(3-fluoro-4-(3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one:
To a 15 mL reaction tube was added 5-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one (16 mg, 0.028 mmol) and the solids were dissolved in trifluoroacetic acid (0.5 mL, excess). The solution was stirred in a sealed tube for 1 hour at 80° C. The solvent was removed and the crude material was purified by loading onto a 0.5 mm preparative TLC plate, eluting with 8% MeOH in ethyl acetate. The product was obtained as a pale orange semi-solid (1.9 mg, 15%). LRMS (APCI pos) m/e 443.3 (M+1). 1H NMR (400 MHz, CD3OD) 8.26 (d, J=5.5 Hz, 1H), 7.94 (br s, 1H), 7.73 (m, 1H), 7.54 (br d, 1H), 7.48 (br d, 1H), 7.39 (m, J=7.4 Hz, 6H), 7.23 (t, J=7.4 Hz, 1H), 6.31 (d, J=5.5 Hz, 1H), 3.66 (s, 3H), 2.72 (s, 3H).

reactant | 5-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.028 mmol, 16 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2C)CC2=CC=C(C=C2)OC)C=2C(N(C(=NC2)NC2=CC=CC=C2)C)=O | C32H27FN6O3
solvent | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(3-fluoro-4-(3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 1.9 mg, 15% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2C)C=2C(N(C(=NC2)NC2=CC=CC=C2)C)=O | C24H19FN6O2
